US07361763B2
To a solution of 2-Amino-5-bromo-pyridine-3-carbaldehyde (632 mg, 3.14 mmol) in anhydrous THF (20 mL) was methylmagnesium bromide 3M in diethyl ether (6.06 mL, 34.8 mmol) is added at −50° C. The reaction mixture was warmed to room temperature and stirred overnight. Saturated aqueous ammonium chloride was added to the mixture (15 mL), the organic layer separated and the aqueous phase extracted with EtOAc (3×20 mL). Organic layers were dried over sodium sulfate, filtered and concentrated. The crude residue was purified by flash silica chromatography with a gradient of ethyl acetate in hexanes. (2-Amino-5-bromo-phenyl)-cyclopentyl-methanol (425.9 mg, 50% yield) was obtained as a yellow powder. MS: m/z 271/273[MH+].

reactant | 2-Amino-5-bromo-pyridine-3-carbaldehyde | 3.14 mmol, 632 mg | NC1=NC=C(C=C1C=O)Br | C6H5BrN2O
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | diethyl ether | 34.8 mmol, 6.06 mL | C(C)OCC | C4H10O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-Amino-5-bromo-phenyl)-cyclopentyl-methanol | 425.9 mg, 50% yield | NC1=C(C=C(C=C1)Br)C(O)C1CCCC1 | C12H16BrNO
